US04044015
a. Imidazo[1,2-a]pyridine
6-chloroimidazo[1,2-a]pyridine, 8-benzyloxyimidazo[1,2-a]pyridine, 5-chloroimidazo[1,2-a]pyridine, 7-chloroimidazo[1,2-a]pyridine, 5-methylimidazo[1,2-a]pyridine, 6-methylimidazo[1,2-a]pyridine, 8-methylimidazo[1,2-a]pyridine and 6-benzyloxyimidazo[1,2-a]pyridine.

reactant | 6-chloroimidazo[1,2-a]pyridine | ClC=1C=CC=2N(C1)C=CN2 | C7H5ClN2
reactant | 8-benzyloxyimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=CN2 | C14H12N2O
reactant | 5-chloroimidazo[1,2-a]pyridine | ClC1=CC=CC=2N1C=CN2 | C7H5ClN2
reactant | 7-chloroimidazo[1,2-a]pyridine | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
reactant | 5-methylimidazo[1,2-a]pyridine | CC1=CC=CC=2N1C=CN2 | C8H8N2
reactant | 6-methylimidazo[1,2-a]pyridine | CC=1C=CC=2N(C1)C=CN2 | C8H8N2
reactant | 8-methylimidazo[1,2-a]pyridine | CC=1C=2N(C=CC1)C=CN2 | C8H8N2
reactant | 6-benzyloxyimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=CC=2N(C1)C=CN2 | C14H12N2O
product | Imidazo[1,2-a]pyridine | N=1C=CN2C1C=CC=C2 | C7H6N2
